US08865712B2
e) 2-(6-Bromo-pyridin-2-yl)-3-methoxymethoxy-2-methoxymethoxymethyl-propionic acid ethyl ester
To the solution of 2-(6-bromo-pyridin-2-yl)-3-hydroxy-2-hydroxymethyl-propionic acid ethyl ester (30.0 g, 98.638 mmol) in dry THF (250 ml) was added tetrabutyl ammonium bromide (15.8 g, 49.319 mmol) and di-isopropyl ethyl amine (127.47 g, 163.0 ml) followed by methoxymethyl chloride was added drop wise at rt. Resultant reaction contents were refluxed at 65° C. for 3 h and cooled to rt. Reaction mixture was concentrated under reduced pressure and purified by column chromatography over silica gel using 10% ethyl acetate in hexane to furnish title compound as a brown liquid. Yield=20.4 g (52%). TLC (30% ethyl acetate in hexane) Rf=0.55; LCMS: RtH7=1.639, [M+1]+=392.0 and 394.0; 1H NMR (400 MHz, CDCl3): δ 7.49 (t, 1H), 7.35 (d, 1H), 7.22 (d, 1H), 4.62-4.47 (m, 4H), 4.24-4.16 (m, 6H), 3.25 (s, 6H), 1.23 (t, 3H).

reactant | 2-(6-bromo-pyridin-2-yl)-3-hydroxy-2-hydroxymethyl-propionic acid ethyl ester | 98.638 mmol, 30.0 g | C(C)OC(C(CO)(CO)C1=NC(=CC=C1)Br)=O | C11H14BrNO4
reactant | di-isopropyl ethyl amine | 163.0 ml, 127.47 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methoxymethyl chloride | COCCl | C2H5ClO
reactant | THF | 250 ml | C1CCOC1 | C4H8O
catalyst | tetrabutyl ammonium bromide | 49.319 mmol, 15.8 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(6-Bromo-pyridin-2-yl)-3-methoxymethoxy-2-methoxymethoxymethyl-propionic acid ethyl ester | C(C)OC(C(COCOC)(COCOC)C1=NC(=CC=C1)Br)=O | C15H22BrNO6
